* C:\Users\asurk\Documents\circuits-labs\Lab4\Draft1.asc
XX1 N001 N002 N004 N003 nand
V1 N001 0 1
V2 N002 0 PULSE(0 1 1n 10p 10p 2n 4n)
V3 N004 0 PULSE(0 1 1n 10p 10p 4n 8n)
R1 N003 0 100k
C1 NC_01 0 100f

* block symbol definitions
.subckt nand V_POS IN_A IN_B OUT
M1 V_POS IN_A OUT V_POS PMOS l=90n w=400n
M2 V_POS IN_B OUT V_POS PMOS l=90n w=400n
M3 OUT IN_A N001 N001 NMOS l=90n w=200n
M4 N001 IN_B 0 0 NMOS l=90n w=200n
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\asurk\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 10n 0 1p
.backanno
.end
